US08349851B2
A stirred solution of ethyl 6-fluoro-4-oxo-3,4-dihydroquinazoline-2-carboxylate (1.2 g, 5.08 mmol) in phosphorus oxychloride (15 mL) was heated at 105° C. for 6 h. After cooling to rt, the reaction mixture was concentrated to dryness under reduced pressure and the residue was dissolved in anhydrous toluene. The toluene was concentrated under reduced pressure. The residue was dissolved in a small volume of DCM and it was passed through a short pad of silica gel eluting with DCM. Ethyl 4-chloro-6-fluoroquinazoline-2-carboxylate was obtained as a solid (1.3 g, 100%). LC-MS (ESI) m/z 255 (M+H)+.

reactant | ethyl 6-fluoro-4-oxo-3,4-dihydroquinazoline-2-carboxylate | 5.08 mmol, 1.2 g | FC=1C=C2C(NC(=NC2=CC1)C(=O)OCC)=O | C11H9FN2O3
reactant | phosphorus oxychloride | 15 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | Ethyl 4-chloro-6-fluoroquinazoline-2-carboxylate | ClC1=NC(=NC2=CC=C(C=C12)F)C(=O)OCC | C11H8ClFN2O2
